US09023858B2
E) 2-(ethylsulfanyl)-7-(hydroxymethyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
7-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one (498 mg) was suspended in tetrahydrofuran (15 ml), a tetrahydrofuran solution (1M, 3 ml) of tetrabutylammonium fluoride was added thereto, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in N,N-dimethylformamide (15 ml), iodoethane (0.24 ml) and 1M aqueous sodium hydrogen carbonate solution (1 ml) were added thereto, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were added 1M hydrochloric acid and water, and the precipitate was collected by filtration, washed with water, and dissolved in tetrahydrofuran. The solution was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate/hexane to give the title compound (373 mg) as a white solid.

reactant | 7-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 498 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C22H26F3N3O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 3 ml | O1CCCC1 | C4H8O
product | 2-(ethylsulfanyl)-7-(hydroxymethyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 373 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)CO)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
